2106-11-18 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EEG - At [**2106-11-17**] 09:15 AM
 EKG - At [**2106-11-18**] 12:45 AM
   - started tube feeds
   - home meds: senna, colace and other bowel meds as prn (these were
   added to POE); also baclofen 10mg [**Hospital1 **] (not yet added); also keflex
   supposed to be 500mg [**Hospital1 **] until [**2107-4-2**] (not yet added); also
   dalteparin [**Numeric Identifier 6835**] units daily
   - ET tube pulled back 2 cm
   - planning to try RSBI and maybe SBT in the early AM
   - bradycardia to 40's and 50's overnight
 see EKG in chart,
   self-corrected
   U/s:
   Echogenic material is visible within nondistended right internal
   jugular vein which does not have flow on color or doppler imaging. The
   findings are consistent with chronic occlusive right internal jugular
   vein
   thrombosis.
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Azithromycin - [**2106-11-17**] 12:34 PM
   Vancomycin - [**2106-11-17**] 08:03 PM
   Ceftriaxone - [**2106-11-17**] 09:00 PM
   Metronidazole - [**2106-11-18**] 06:36 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2106-11-17**] 09:45 PM
   Fentanyl - [**2106-11-18**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-11-18**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.2
C (95.4
   HR: 58 (49 - 113) bpm
   BP: 93/56(65) {79/52(59) - 119/88(94)} mmHg
   RR: 14 (14 - 14) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
    CVP: 17 (17 - 17)mmHg
   (femoral line)
   Total In:
                                                                  2,181 mL
                                                                    694 mL
   PO:
                                   TF:
                                                                     88 mL
                                                                    170 mL
   IVF:
                                                                  2,093 mL
                                                                    524 mL
   Blood products:
   Total out:
                                                                  4,605 mL
                                                                    253 mL
   Urine:
                                                                  4,605 mL
                                                                    253 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,424 mL
                                                                    441 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 85
   PIP: 18 cmH2O
   Plateau: 16 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 98%
   ABG: ///20/
   Ve: 6.9 L/min
   Physical Examination
   GEN:
   CV:
   PULM:
   ABD:
   EXTR:
   NEURO:
   Labs / Radiology
   189 K/uL
   11.3 g/dL
   129 mg/dL
   0.6 mg/dL
   20 mEq/L
   3.3 mEq/L
   5 mg/dL
   120 mEq/L
   148 mEq/L
   33.7 %
   11.8 K/uL
        [image002.jpg]
                             [**2106-11-17**]  02:37 AM
                             [**2106-11-18**]  03:06 AM
   WBC
   15.9
   11.8
   Hct
   35.2
   33.7
   Plt
   210
   189
   Cr
   0.6
   0.6
   Glucose
   129
   129
   Other labs: ALT / AST:51/31, Alk Phos / T Bili:150/0.2,
   Differential-Neuts:79.8 %, Lymph:15.2 %, Mono:4.6 %, Eos:0.2 %,
   Albumin:2.7 g/dL, LDH:173 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:1.9
   mg/dL
   CT head:
   IMPRESSION: Minimal change from the comparison studies, with marked
   ventriculomegaly, despite the presence of two ventriculostomy
   catheters. Of
   note, there is no evidence of transpendemyal migration of CSF to
   specifically suggest an acute obstructive component.
   Shunt series imaging: IMPRESSION: Minimal change.
   [**11-17**] repeat CXR: In comparison to the previous chest radiograph, the ET
   tube has
   been withdrawn and is now just above the thoracic inlet, about 4 cm
   above the
   carina. NG tube is unchanged and coiled in the stomach. The right IJ
   line is
   also unchanged and projects into the right atrium. Low lung volumes are
   contributing to bibasilar atelectasis. Pulmonary edema has improved and
   is
   now mild. A small left pleural effusion is unchanged. No new
   consolidation
   or pneumothorax. Cardiomediastinal silhouette is unchanged and within
   normal
   limits.
   IMPRESSION: Improved pulmonary edema, now mild. Stable small left
   pleural
   effusion.
   [**11-18**] CXR: stable (my read)
   Micro:
  GRAM STAIN (Final [**2106-11-17**]):
      >25 PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI IN PAIRS.
         1+    (<1 per 1000X FIELD):   YEAST(S).
   Negative flu.
   Blood and CSF  pending, no growth to date.
   Assessment and Plan
 INEFFECTIVE COPING
 SEIZURE, WITH STATUS EPILEPTICUS
 URINARY TRACT INFECTION (UTI)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, OTHER
   33M with a history of traumatic brain injury, seizure disorder,
   bactreremia with a VP shunt in place on long term antibiotics, and
   aspiration in the past who was admitted in status eplipticus with a
   high fever and possible PNA on CXR. There is concern that he has a
   meningoencephalitis. His seizures could also be due to a systemic
   infection not specifically involving the CNS.
   .
   # Status epilepticus: Required lorazepam and propofol to control. Was
   intubated for airway protection in the ED. Etiology in unclear, but
   likely due to medication non-compliance and infection. Tox screen
   negative. Head CT and shunt study without significant change to explain
   status epilepticus.
   - f/u Neurology and neurosurgery consulants
   - Continue LeVETiracetam 1500 mg IV Q12H
   - Baseline Keppra level not possible because was drawn in wrong tube in
   ED
   - Continue propofol and mechanical ventilation until able to protect
   airway
   - Ativan PRN for seizure activity
   - F/u EEG
   - Pressure support trial, and wean sedation as tolerated
   - Restart home baclofen at 10mg [**Hospital1 **]
   .
   # Sepsis: Concern for meningoencephalitis given hardware in place. [**Month (only) 60**]
   also be due to pneumonia or influenza infection. CSF clear so far, no
   longer on dexamethasone for meningitis. Negative flu.
   - Continue CeftriaXONE 2 gm IV Q12H for 7 day course (day 1 = [**11-17**])
   - Continue  Vancomycin 1000 mg IV Q 12H for Gram positives give history
   of long term nafcillin for MSSA bacteremia, for 7 day course (day 1 =
   [**11-17**])
   - Start MetRONIDAZOLE (FLagyl) 500 mg IV Q8H  for ? aspiration and for
   GI coverage, for 7 day course (day 1 = [**11-17**])
   - Continue azithromycin (5 day course) (day 1 = [**11-17**])
   - Once 7-day course of antibiotics completes, switch back to home
   keflex 500mg [**Hospital1 **] until [**2107-3-17**]
 investigate the timing of this
   medication and the indication (hematology, ID)
   - BCx pending
   - UCx pending
   - LP pending
   - Maintainence fluids, 1/2NS at 75 cc/hour
   .
   # Transaminase elevation: Etiology unclear. Pt not hypotensive prior to
   intubation and shock liver would not present yet. DDx includes
   ingestions, virus, and infection. Neg. Tylenol and alcohol
   - Trend transaminases
   .
   # Bradycardia and long QT interval: QT interval increased between ED
   presentation and 9 hours later. Perhaps brady due to quadriplegia,
   perhaps long QT due to levaquin previously administered.
   - check pm EKG, check pm lytes, replete lytes as needed
   - consider d/c azithro (although it was started after the QT interval
   lengthened); continue to not use levaquin
   - telemetry
   .
   # History of RIJ thrombus: [**Month (only) 60**] serve as nidus of infection. Continue
   Abx as above. No lines in the R IJ.
   - Lovenox mg/kg [**Hospital1 **] (rather than home dalteparin due to formulary
   issue)
   - Check into length of treatment (3 months?)
   . .
   # Access: R femoral line, 20-gauge
   # FEN: Tube feeds, replete electrolytes per scales, free water flushes
   150cc q4h for hypernatremia.
   # PPx: Pain control with fentanyl, bowel regimen, H2 blocker, lovenox
   [**Hospital1 **].
   # Comm: With [**Name (NI) 217**] [**Name (NI) 9908**] (mother) [**Telephone/Fax (1) 10987**] (cell), FYI Spanish
   speaking only
   # Code: FULL
   # Dispo: ICU for now
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2106-11-18**] 06:32 AM 30 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2106-11-17**] 01:29 AM
   Multi Lumen - [**2106-11-17**] 01:53 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2106-11-18 10:13:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   37 yo man with quadriplegia, admitted with seizures, respiratory
   failure, PNA.
   24 Hour Events:
 EEG - At [**2106-11-17**] 09:15 AM
 EKG - At [**2106-11-18**] 12:45 AM
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Azithromycin - [**2106-11-17**] 12:34 PM
   Ceftriaxone - [**2106-11-17**] 09:00 PM
   Metronidazole - [**2106-11-18**] 06:36 AM
   Vancomycin - [**2106-11-18**] 08:00 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2106-11-17**] 09:45 PM
   Fentanyl - [**2106-11-18**] 03:30 AM
   Other medications:
   keppra
   propofol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-11-18**] 10:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.7
C (96.2
   HR: 58 (49 - 113) bpm
   BP: 93/56(65) {79/52(59) - 119/78(85)} mmHg
   RR: 14 (14 - 14) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   CVP: 17 (17 - 17)mmHg
   Total In:
                                                                  2,181 mL
                                                                  1,123 mL
   PO:
   TF:
                                                                     88 mL
                                                                    247 mL
   IVF:
                                                                  2,093 mL
                                                                    876 mL
   Blood products:
   Total out:
                                                                  4,605 mL
                                                                    288 mL
   Urine:
                                                                  4,605 mL
                                                                    288 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,424 mL
                                                                    835 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 85
   PIP: 18 cmH2O
   Plateau: 14 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 98%
   ABG: ///20/
   Ve: 7 L/min
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.3 g/dL
   189 K/uL
   129 mg/dL
   0.6 mg/dL
   20 mEq/L
   3.3 mEq/L
   5 mg/dL
   120 mEq/L
   148 mEq/L
   33.7 %
   11.8 K/uL
        [image002.jpg]
                             [**2106-11-17**]  02:37 AM
                             [**2106-11-18**]  03:06 AM
   WBC
   15.9
   11.8
   Hct
   35.2
   33.7
   Plt
   210
   189
   Cr
   0.6
   0.6
   Glucose
   129
   129
   Other labs: ALT / AST:51/31, Alk Phos / T Bili:150/0.2,
   Differential-Neuts:79.8 %, Lymph:15.2 %, Mono:4.6 %, Eos:0.2 %,
   Albumin:2.7 g/dL, LDH:173 IU/L, Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:1.9
   mg/dL
   Microbiology: sputum: 1+ GPCs in pairs
   Assessment and Plan
 INEFFECTIVE COPING
 SEIZURE, WITH STATUS EPILEPTICUS
 URINARY TRACT INFECTION (UTI)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, OTHER
   Seizures with status:  continue keppra.  to get EEG today.
   Respiratory failure:  will lighten sedation and try to switch to PSV.
   septic shock:  continue CTX/vanco/flagyl/azithro for 7 days for PNA
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2106-11-18**] 06:32 AM 30 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2106-11-17**] 01:29 AM
   Multi Lumen - [**2106-11-17**] 01:53 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2106-11-19 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2106-11-18**] 03:40 PM
   Extubated.
   - 5 day course Azithro
   - 7 day course of other 3 antibiotics
   - talked to mother and no longer on anticoagulation therapy at home so
   started on TID heparin here.
   - EEG yesterday while extubate to assure no seizure as weaning sedation
 EEG continuous until 2pm on [**11-19**] (today)
   - talked with mother about condition and she requests we call doctor
   named [**Name (NI) 388**] (# on board) in morning because has been very involved in
   his care.
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2106-11-17**] 09:00 PM
   Azithromycin - [**2106-11-18**] 12:00 PM
   Vancomycin - [**2106-11-18**] 08:57 PM
   Metronidazole - [**2106-11-19**] 06:19 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2106-11-18**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2106-11-19**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-11-19**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.5
   HR: 70 (57 - 91) bpm
   BP: 97/55(65) {88/55(64) - 111/77(84)} mmHg
   RR: 17 (8 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 24 (24 - 24)mmHg
   Total In:
                                                                  3,682 mL
                                                                    220 mL
   PO:
   TF:
                                                                    400 mL
   IVF:
                                                                  2,982 mL
                                                                    220 mL
   Blood products:
   Total out:
                                                                  1,023 mL
                                                                    770 mL
   Urine:
                                                                  1,023 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,659 mL
                                                                   -550 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 460 (460 - 460) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 15
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   Plateau: 14 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/30/159/23/-1
   Ve: 7.5 L/min
   PaO2 / FiO2: 398
   Physical Examination
   GEN: NAD, eyes open but does not track or respond to verbal stimuli.
   HEENT: no longer with nystagmus
   CV: RRR, no m/r/g
   PULM: CTAB
   ABD: +BS, soft, nt, nd
   EXTR: no edema, feet malformed w/o change
   Labs / Radiology
   230 K/uL
   10.5 g/dL
   96 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.8 mEq/L
   4 mg/dL
   116 mEq/L
   147 mEq/L
   31.0 %
   13.4 K/uL
        [image002.jpg]
                             [**2106-11-17**]  02:37 AM
                             [**2106-11-18**]  03:06 AM
                             [**2106-11-18**]  02:01 PM
                             [**2106-11-18**]  05:49 PM
                             [**2106-11-19**]  04:49 AM
   WBC
   15.9
   11.8
   13.4
   Hct
   35.2
   33.7
   31.0
   Plt
   [**Telephone/Fax (3) 11013**]
   Cr
   0.6
   0.6
   0.6
   0.7
   TCO2
   21
   Glucose
   129
   129
   96
   Other labs: ALT / AST:34/14, Alk Phos / T Bili:119/0.2,
   Differential-Neuts:79.8 %, Lymph:15.2 %, Mono:4.6 %, Eos:0.2 %,
   Albumin:2.7 g/dL, LDH:164 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 SEIZURE, WITH STATUS EPILEPTICUS
 URINARY TRACT INFECTION (UTI)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, OTHER
   33M with a history of traumatic brain injury, seizure disorder,
   bactreremia with a VP shunt in place on long term antibiotics, and
   aspiration in the past who was admitted in status eplipticus with a
   high fever and possible PNA on CXR. There is concern that he has a
   meningoencephalitis. His seizures could also be due to a systemic
   infection not specifically involving the CNS.
   .
   # Status epilepticus: Required lorazepam and propofol to control. Was
   intubated for airway protection in the ED. Etiology in unclear, but
   likely due to medication non-compliance and infection. Tox screen
   negative. Head CT and shunt study without significant change to explain
   status epilepticus.
   - f/u Neurology and neurosurgery consulants
   - Continue LeVETiracetam 1500 mg IV Q12H
   - Baseline Keppra level not possible because was drawn in wrong tube in
   ED
   - Ativan PRN for seizure activity
   - F/u EEG (24-hour ends today at 1400)
   - Continue home baclofen at 10mg [**Hospital1 **]
   .
   # Sepsis: Concern for meningoencephalitis given hardware in place. [**Month (only) 60**]
   also be due to pneumonia or influenza infection. CSF clear so far, no
   longer on dexamethasone for meningitis. Negative flu.
   - Continue CeftriaXONE 2 gm IV Q12H for 7 day course (day 1 = [**11-17**])
   - Continue  Vancomycin 1000 mg IV Q 12H for Gram positives give history
   of long term nafcillin for MSSA bacteremia, for 7 day course (day 1 =
   [**11-17**])
   - Start MetRONIDAZOLE (FLagyl) 500 mg IV Q8H  for ? aspiration and for
   GI coverage, for 7 day course (day 1 = [**11-17**])
   - Continue azithromycin (5 day course) (day 1 = [**11-17**]); change dose so
   remaining days are at 250mg daily
   - Once 7-day course of antibiotics completes, switch back to home
   keflex 500mg [**Hospital1 **] until [**2107-3-17**]
 investigate the timing of this
   medication and the indication (hematology, ID)
   - BCx pending
   - UCx pending
   - LP pending
   - extubated; wean levophed as tolerated for MAP >60
   - maintainence fluids versus place Dobhoff & give tube feeds
   .
   # Transaminase elevation: Etiology unclear. Pt not hypotensive prior to
   intubation and shock liver would not present yet. DDx includes
   ingestions, virus, and infection. Neg. Tylenol and alcohol
   - Trend transaminases
   .
   # Bradycardia and long QT interval: QT interval increased between ED
   presentation and 9 hours later. Perhaps brady due to quadriplegia,
   perhaps long QT due to levaquin previously administered. EKG yesterday
   afternoon showed QTc improved.
   - replete lytes as needed
   - continue to not use levaquin
   - telemetry
   .
   # History of RIJ thrombus: [**Month (only) 60**] serve as nidus of infection. Continue
   Abx as above. No lines in the R IJ.
   - no longer on anticoagulation regimen at home, has completed regimen
   - heparin SQ tid
   .
   # Access: R femoral line, 20-gauge, request PICC placement at bedside
   (on Left) and once placed d/c femoral line
   # FEN: Tube feeds
 place Dobhoff today, replete electrolytes per
   scales, free water flushes 150cc q4h for hypernatremia.
   # PPx: Pain control with fentanyl, bowel regimen, heparin SQ tid, d/c
   famotidine as no longer intubated.
   # Comm: With [**Name (NI) 217**] [**Name (NI) 9908**] (mother) [**Telephone/Fax (1) 10987**] (cell), FYI Spanish
   speaking only
   # Code: FULL
   # Dispo: ICU for now
   ICU Care
   Lines:
   20 Gauge - [**2106-11-17**] 01:29 AM
   Multi Lumen - [**2106-11-17**] 01:53 AM

2106-11-19 12:20:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   37 yo man quadriplegic, admitted with PNA, sepsis, seizures.  Doing
   well.
   24 Hour Events:
 EEG - At [**2106-11-18**] 02:00 PM
 INVASIVE VENTILATION - STOP [**2106-11-18**] 03:40 PM
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Ceftriaxone - [**2106-11-17**] 09:00 PM
   Azithromycin - [**2106-11-18**] 12:00 PM
   Metronidazole - [**2106-11-19**] 06:19 AM
   Vancomycin - [**2106-11-19**] 08:00 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2106-11-19**] 08:00 AM
   Famotidine (Pepcid) - [**2106-11-19**] 10:00 AM
   Other medications:
   keppra
   pepcid
   flagyl
   SSI
   baclofen
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-11-19**] 12:20 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 68 (57 - 85) bpm
   BP: 97/64(71) {91/55(64) - 104/73(79)} mmHg
   RR: 16 (8 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
   CVP: 24 (24 - 24)mmHg
   Total In:
                                                                  3,682 mL
                                                                    549 mL
   PO:
   TF:
                                                                    400 mL
   IVF:
                                                                  2,982 mL
                                                                    549 mL
   Blood products:
   Total out:
                                                                  1,023 mL
                                                                  1,590 mL
   Urine:
                                                                  1,023 mL
                                                                  1,590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,659 mL
                                                                 -1,041 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: PSV/SBT
   PS : 5 cmH2O
   PEEP: 0 cmH2O
   FiO2: 40%
   SpO2: 98%
   ABG: 7.44/30/159/23/-1
   PaO2 / FiO2: 398
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, No(t) Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.5 g/dL
   230 K/uL
   96 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.8 mEq/L
   4 mg/dL
   116 mEq/L
   147 mEq/L
   31.0 %
   13.4 K/uL
        [image002.jpg]
                             [**2106-11-17**]  02:37 AM
                             [**2106-11-18**]  03:06 AM
                             [**2106-11-18**]  02:01 PM
                             [**2106-11-18**]  05:49 PM
                             [**2106-11-19**]  04:49 AM
   WBC
   15.9
   11.8
   13.4
   Hct
   35.2
   33.7
   31.0
   Plt
   [**Telephone/Fax (3) 11013**]
   Cr
   0.6
   0.6
   0.6
   0.7
   TCO2
   21
   Glucose
   129
   129
   96
   Other labs: ALT / AST:34/14, Alk Phos / T Bili:119/0.2,
   Differential-Neuts:79.8 %, Lymph:15.2 %, Mono:4.6 %, Eos:0.2 %,
   Albumin:2.7 g/dL, LDH:164 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 SEIZURE, WITH STATUS EPILEPTICUS
 URINARY TRACT INFECTION (UTI)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, OTHER
   Status epilepticus:  no further seizure activity.  Having continuous
   EEG - follow up on results
   Unable to take baclofen - will place dobhoff catheter
   wean off levophed as tolerated.
   transaminase level is stable
   bradycardia/long QT: stable
   access:  will try to place pic line and d/c femoral.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2106-11-17**] 01:29 AM
   Multi Lumen - [**2106-11-17**] 01:53 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2106-11-20 07:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Dobhoff placed.
   Neuro
 increased keppra dose as in/out of seizures seen on EEG.
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2106-11-19**] 08:00 AM
   Azithromycin - [**2106-11-19**] 12:00 PM
   Ceftriaxone - [**2106-11-19**] 10:00 PM
   Metronidazole - [**2106-11-20**] 12:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2106-11-19**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2106-11-19**] 11:53 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-11-20**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.9
C (96.6
   HR: 87 (61 - 102) bpm
   BP: 94/69(75) {80/55(60) - 107/70(78)} mmHg
   RR: 17 (11 - 20) insp/min
   SpO2: 96% on RA
   Heart rhythm: SR (Sinus Rhythm)
   Height: 66 Inch
    CVP: 30 (9 - 30)mmHg
   Total In:
                                                                  1,285 mL
                                                                    855 mL
   PO:
   TF:
                                                                    140 mL
                                                                    325 mL
   IVF:
                                                                  1,145 mL
                                                                    230 mL
   Blood products:
   Total out:
                                                                  4,010 mL
                                                                    660 mL
   Urine:
                                                                  4,010 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,725 mL
                                                                    195 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   GEN: NAD, resting in bed.
   CV: RRR, no m/r/g
   PULM: CTAB
   ABD: +BS, soft, nt, nd
   EXTR: feet malformed, hands with bite marks, no edema.
   NEURO: mouth wide open, eyes open, does not track or respond to verbal
   stimuli.
   Labs / Radiology
   218 K/uL
   11.7 g/dL
   80 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.9 mEq/L
   5 mg/dL
   110 mEq/L
   143 mEq/L
   36.7 %
   8.9 K/uL
        [image002.jpg]
                             [**2106-11-17**]  02:37 AM
                             [**2106-11-18**]  03:06 AM
                             [**2106-11-18**]  02:01 PM
                             [**2106-11-18**]  05:49 PM
                             [**2106-11-19**]  04:49 AM
                             [**2106-11-19**]  04:09 PM
                             [**2106-11-20**]  02:57 AM
   WBC
   15.9
   11.8
   13.4
   8.9
   Hct
   35.2
   33.7
   31.0
   36.7
   Plt
   [**Telephone/Fax (3) 11027**]18
   Cr
   0.6
   0.6
   0.6
   0.7
   0.6
   0.6
   TCO2
   21
   Glucose
   129
   129
   96
   98
   80
   Other labs: ALT / AST:27/15, Alk Phos / T Bili:125/0.2,
   Differential-Neuts:79.8 %, Lymph:15.2 %, Mono:4.6 %, Eos:0.2 %,
   Albumin:2.7 g/dL, LDH:218 IU/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:3.7
   mg/dL
   Assessment and Plan
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 INEFFECTIVE COPING
 SEIZURE, WITH STATUS EPILEPTICUS
 URINARY TRACT INFECTION (UTI)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, OTHER
   33M with a history of traumatic brain injury, seizure disorder,
   bactreremia with a VP shunt in place on long term antibiotics, and
   aspiration in the past who was admitted in status eplipticus with a
   high fever and possible PNA on CXR. There is concern that he has a
   meningoencephalitis. His seizures could also be due to a systemic
   infection not specifically involving the CNS.
   .
   # Status epilepticus: Required lorazepam and propofol to control. Was
   intubated for airway protection in the ED. Etiology in unclear, but
   likely due to medication non-compliance and infection. Tox screen
   negative. Head CT and shunt study without significant change to explain
   status epilepticus.
   - f/u Neurology and neurosurgery consulants
   - Continue LeVETiracetam at dose per neuro recommendations
   - Baseline Keppra level not possible because was drawn in wrong tube in
   ED
   - Ativan standing for seizure activity
   - F/u EEG read and neuro rec
   - Continue home baclofen at 10mg [**Hospital1 **]
   .
   # Sepsis: Concern for meningoencephalitis given hardware in place. [**Month (only) 60**]
   also be due to pneumonia or influenza infection. CSF clear so far, no
   longer on dexamethasone for meningitis. Negative flu.
   - Continue CeftriaXONE 2 gm IV Q12H for 7 day course (day 1 = [**11-17**])
   - Vanco was d/c
   - Start MetRONIDAZOLE (FLagyl) 500 mg IV Q8H  for ? aspiration and for
   GI coverage, for 7 day course (day 1 = [**11-17**])
   - Continue azithromycin (5 day course) (day 1 = [**11-17**]); change dose so
   remaining days are at 250mg daily
   - Once 7-day course of antibiotics completes, switch back to home
   keflex 500mg [**Hospital1 **] until [**2107-3-17**]
 investigate the timing of this
   medication and the indication (hematology, ID)
   - BCx pending
   - UCx pending
   - LP pending
   - extubated; off pressors
   - SBP on lower side now, give 1L NS bolus now
   - hold on maintenance fluids, given tube feeds being given in addition
   to free water flushes.
   .
   # Transaminase elevation: Etiology unclear. Pt not hypotensive prior to
   intubation and shock liver would not present yet. DDx includes
   ingestions, virus, and infection. Neg. Tylenol and alcohol. Stable this
   AM.
   - Trend transaminases
   .
   # Bradycardia and long QT interval: QT interval increased between ED
   presentation and 9 hours later. Perhaps brady due to quadriplegia,
   perhaps long QT due to levaquin previously administered. Repeat EKG
   showed QTc improved.
   - replete lytes as needed
   - continue to not use levaquin
   - telemetry
 however no events so can d/c telemetry on move to the
   floor from the ICU.
   .
   # History of RIJ thrombus: [**Month (only) 60**] serve as nidus of infection. Continue
   Abx as above. No lines in the R IJ. Clot visualized on CT scan as still
   present.
   - although no longer on anticoagulation regimen at home per patient
   mother, feel with continued presence of clot, need to continue
   anticoagulation
   - start lovenox
   - discuss length of anticoagulation with hematology
   - d/c heparin SQ
   .
   # Social/cost of medicine issues:
   - discuss with social work and with patient
s mother
   .
   # Access: R femoral line, request PICC placement at bedside (on Left)
   and once placed d/c femoral line
   # FEN: Tube feeds through Dobhoff, replete electrolytes per scales,
   free water flushes 150cc q4h for hypernatremia.
   # PPx: Bowel regimen, d/c heparin SQ, d/c famotidine as no longer
   intubated.
   # Comm: With [**Name (NI) 217**] [**Name (NI) 9908**] (mother) [**Telephone/Fax (1) 10987**] (cell), FYI Spanish
   speaking only
   # Code: FULL
   # Dispo: To the floor today.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2106-11-19**] 05:00 PM 55 mL/hour
   Lines:
   Multi Lumen - [**2106-11-17**] 01:53 AM

2106-11-20 09:51:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Hx reviewed, VP shunt, admitted with status, ? pneumonia
   Extubated [**11-18**]
   24 Hour Events:
 CALLED OUT
   Active seizure activity yesterday
   No overnight events
   Allergies:
   Sulfa (Sulfonamides)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2106-11-19**] 08:00 AM
   Azithromycin - [**2106-11-19**] 12:00 PM
   Ceftriaxone - [**2106-11-19**] 10:00 PM
   Metronidazole - [**2106-11-20**] 12:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2106-11-19**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2106-11-20**] 08:30 AM
   Other medications:
   Flagyl, ISS, baclofen, ativan q6h, keppra
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-11-20**] 09:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.4
C (97.6
   HR: 87 (61 - 102) bpm
   BP: 83/53(60) {77/53(60) - 107/70(78)} mmHg
   RR: 16 (11 - 17) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 76 kg
   Height: 66 Inch
   CVP: 20 (9 - 30)mmHg
   Total In:
                                                                  1,285 mL
                                                                  1,176 mL
   PO:
   TF:
                                                                    140 mL
                                                                    428 mL
   IVF:
                                                                  1,145 mL
                                                                    299 mL
   Blood products:
   Total out:
                                                                  4,010 mL
                                                                    960 mL
   Urine:
                                                                  4,010 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,725 mL
                                                                    216 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed,
   nonverbal, eyes open
   Labs / Radiology
   11.7 g/dL
   218 K/uL
   80 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.9 mEq/L
   5 mg/dL
   110 mEq/L
   143 mEq/L
   36.7 %
   8.9 K/uL
        [image002.jpg]
                             [**2106-11-17**]  02:37 AM
                             [**2106-11-18**]  03:06 AM
                             [**2106-11-18**]  02:01 PM
                             [**2106-11-18**]  05:49 PM
                             [**2106-11-19**]  04:49 AM
                             [**2106-11-19**]  04:09 PM
                             [**2106-11-20**]  02:57 AM
   WBC
   15.9
   11.8
   13.4
   8.9
   Hct
   35.2
   33.7
   31.0
   36.7
   Plt
   [**Telephone/Fax (3) 11027**]18
   Cr
   0.6
   0.6
   0.6
   0.7
   0.6
   0.6
   TCO2
   21
   Glucose
   129
   129
   96
   98
   80
   Other labs: ALT / AST:27/15, Alk Phos / T Bili:125/0.2,
   Differential-Neuts:79.8 %, Lymph:15.2 %, Mono:4.6 %, Eos:0.2 %,
   Albumin:2.7 g/dL, LDH:218 IU/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:3.7
   mg/dL
   Microbiology: no new data
   Assessment and Plan
 INEFFECTIVE COPING
 SEIZURE, WITH STATUS EPILEPTICUS
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PNEUMONIA, OTHER
   Status epilepticus:  had seizure activity yesterday.  On continuous EEG
   - follow up on results
   Hypotension - prob d/t 2.8 L net negative, will bolus and watch
   Unable to take baclofen - will place dobhoff catheter
   Clot in right IJ
 completed course of anticoagulation but still clot
   in IJ, will restart lovenox. Would recommend heme to reevaluate next
   week.
   Transaminase level stable
   Bradycardia/long QT: stable, improved
   Access:  will try to place left sided picc line and d/c femoral
   Dispo: stable for call out
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2106-11-19**] 05:00 PM 55 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2106-11-17**] 01:53 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Communication: ICU consent signed Comments: mother updated
   [**Name2 (NI) 66**] status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes